US06787536B2
4-[5-(4-Cyanophenyl)pyrimidin-2-yl]piperazine-1-carboxylic acid tert-butyl ester
Prepared according to the method for the preparation of 4-[5-(4-fluorophenyl)pyrimidin-2-yl]piperazine-1-carboxylic acid tert-butyl ester, from 4-(5-bromopyrimidin-2-yl)piperazine-1-carboxylic acid tert-butyl ester (1.00 g) and 4-cyanobenzeneboronic acid (0.47 g), to yield the title compound as a white solid (0.72 g, 68%).

reactant | 4-[5-(4-fluorophenyl)pyrimidin-2-yl]piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=N1)C1=CC=C(C=C1)F | C19H23FN4O2
reactant | 4-(5-bromopyrimidin-2-yl)piperazine-1-carboxylic acid tert-butyl ester | 1.00 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=N1)Br | C13H19BrN4O2
reactant | 4-cyanobenzeneboronic acid | 0.47 g | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
product | 4-[5-(4-Cyanophenyl)pyrimidin-2-yl]piperazine-1-carboxylic acid tert-butyl ester | 0.72 g, 68% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=N1)C1=CC=C(C=C1)C#N | C20H23N5O2
